US06103907
(a) Ethyl 3-(4-methoxymethoxyphenyl)-2-methylthiopropionate
A solution of 17.2 g of ethyl 3-(4-methoxymethoxyphenyl)-2-methanesulfonyloxypropionate, 4.20 g of sodium thiomethoxide in 300 ml of N,N-dimethylformamide was stirred at 50° C. for 1.5 hours. After the reaction, ethyl acetate and water were added to the reaction mixture. Then, the ethyl acetate layer was separated and dried over anhydrous magnesium sulfate. The extract thus obtained was concentrated, and the residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:4) to obtain 11.37 g of the desired compound as a syrup.

reactant | ethyl 3-(4-methoxymethoxyphenyl)-2-methanesulfonyloxypropionate | 17.2 g | COCOC1=CC=C(C=C1)CC(C(=O)OCC)OS(=O)(=O)C | C14H20O7S
reactant | sodium thiomethoxide | 4.20 g | C[S-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | Ethyl 3-(4-methoxymethoxyphenyl)-2-methylthiopropionate | 11.37 g | COCOC1=CC=C(C=C1)CC(C(=S)OCC)C | C14H20O3S
